US07244842B2
Ammonium (Z)-7β-[2-(2-amino-4-thiazolyl)-2-(hydroxyimino)acetamido]-3-vinyl-3-cephem-4carboxylate (20 gm) was added to a mixture of water (250 ml) and acetone (80 ml) and warmed to 33–35° C. This aqueous solution was treated with activated charcoal and EDTA at 35° C. for 40 minutes. The carbon was filtered and the carbon bed was washed with water (70 ml). This aqueous acetone solution was cooled to −30° C. and a (10%) solution of aqueous sulphuric acid was added rapidly, stirred for 30 minutes and warmed to 0–2° C. The product thus obtained was filtered at 0–2° C., washed with cold-water (100 ml) and dried at 40–45° C. under vacuum for 5–6 hours to get (Z)-7β-[2-(2-amino-4-thiazolyl)-2-(hydroxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (6.0 gm, HPLC quality 89.0%, water content 4–5%).

reactant | Ammonium (Z)-7β-[2-(2-amino-4-thiazolyl)-2-(hydroxyimino)acetamido]-3-vinyl-3-cephem-4carboxylate | 20 gm | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)[O-])C1=O)=N/O.[NH4+]
reactant | water | 250 ml | O | H2O
reactant | charcoal | C | CH4
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | (Z)-7β-[2-(2-amino-4-thiazolyl)-2-(hydroxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 6.0 gm | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=N/O | C14H13N5O5S2
